US06417187B2
1-Methyl 3-(2-chloro-6-fluorophenyl)-5-(5-bromo-3,4-dichlorothien-2-yl) [1,2,4]triazole (6a)
To a mixture of 1-methyl-3-(2-chloro-6-fluorophenyl)-5-(3,4-dichlorothien-2-yl) [1,2,4]triazole (33.4 g, 92.1 mmol) and sodium acetate (7.6 g, 92.1 mmol) in acetic acid (250 mL) was added bromine (58.9 g, 368.4 mmol) dropwise at a rate which maintained the reaction temperature below 35° C. The resulting mixture was slowly heated to 70° C. and stirred for 2.5 hours, cooled to 50° C. and stirred overnight, and cooled to room temperature. TLC analysis (methylene chloride) indicates full consumption of the starting material. The reaction was slowly poured into a mixture of 10% aqueous sodium bisulfite and ice (300 mL), and the resulting pale yellow suspension was stirred for 20 minutes. The solids were collected by vacuum filtration, washed with water, and dissolved in methylene chloride. The organics were dried (sodium sulfate), filtered, and the solvent evaporated at reduced pressure to give 39.3 g (96%) of desired product as a tan solid: mp 178-180° C. 1H NMR (CDCl3) δ4.04 (s, 3H), 7.08-7.14 (Ar-m, 1H), 7.29-7.40 (Ar-m, 2H).

reactant | 1-methyl-3-(2-chloro-6-fluorophenyl)-5-(3,4-dichlorothien-2-yl) [1,2,4]triazole | 92.1 mmol, 33.4 g | CN1N=C(N=C1C=1SC=C(C1Cl)Cl)C1=C(C=CC=C1F)Cl | C13H7Cl3FN3S
reactant | sodium acetate | 92.1 mmol, 7.6 g | C(C)(=O)[O-].[Na+]
reactant | bromine | 368.4 mmol, 58.9 g | BrBr | Br2
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 250 mL | C(C)(=O)O | C2H4O2
product | 1-Methyl 3-(2-chloro-6-fluorophenyl)-5-(5-bromo-3,4-dichlorothien-2-yl) [1,2,4]triazole | 39.3 g, 96% | CN1N=C(N=C1C=1SC(=C(C1Cl)Cl)Br)C1=C(C=CC=C1F)Cl | C13H6BrCl3FN3S
